US08859553B2
4-Chloro-3-(2-(imidazo[1,2-b]pyridazin-3-yl)ethynyl)-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from 3-ethynylimidazo[1,2-b]pyridazine and 4-chloro-3-iodo-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide in a manner similar to that described for in Example 1. The title compound was obtained as a light yellow solid. Mp: 153-154° C.; 1H NMR (300 MHz, CDCl3) δ: 9.35 (1H, s), 8.48-8.49 (1H, d, J=3.6 Hz), 8.25 (1H, s), 8.15 (2H, brs), 7.89-7.92 (4H, m), 7.57-7.60 (1H, d, J=8.4 Hz), 7.37 (1H, s), 7.12-7.16 (1H, dd, J=4.2 and 9.3 Hz), 2.27 (3H, s). HRMS (ESI-TOF+): m/z [M+2H]+2 calcd for C26H18ClF3N6O: 261.0586. found: 261.0584.

reactant | 3-ethynylimidazo[1,2-b]pyridazine | C(#C)C1=CN=C2N1N=CC=C2 | C8H5N3
reactant | 4-chloro-3-iodo-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=C1)I | C18H12ClF3IN3O
product | 4-Chloro-3-(2-(imidazo[1,2-b]pyridazin-3-yl)ethynyl)-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=C1)C#CC1=CN=C2N1N=CC=C2 | C26H16ClF3N6O
